US05571833
Potassium cyanide (7.36 g, 113 retool) was added to a solution of 3-dimethylaminomethyl-4-chloro-5-benzyloxy-indole (9.30 g, 29.5 mmol) in sieve-dried DMF (150 ml). Methyl iodide (17.2 g, 121 mmol) was added dropwise, while stirring over 15 minutes, and stirring was continued for a further hour. The mixture was poured into 10% aqueous sodium sulphate and extracted with diethyl ether. The combined extracts were dried (Na2SO4) and evaporated to dryness leaving an oil which crystallised. Recrystallisation from methanol gave 3-cyanomethyl-4-chloro-5-benzyloxyindole (5.56 g), m.p. 130°-2° C.

reactant | Potassium cyanide | 7.36 g | [C-]#N.[K+]
reactant | 3-dimethylaminomethyl-4-chloro-5-benzyloxy-indole | 29.5 mmol, 9.30 g | CN(C)CC1=CNC2=CC=C(C(=C12)Cl)OCC1=CC=CC=C1 | C18H19ClN2O
reactant | Methyl iodide | 121 mmol, 17.2 g | CI | CH3I
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 3-cyanomethyl-4-chloro-5-benzyloxyindole | 5.56 g | C(#N)CC1=CNC2=CC=C(C(=C12)Cl)OCC1=CC=CC=C1 | C17H13ClN2O
